US07427612B2
[5-Methanesulfonyl-2-(4-methyl-imidazol-1-yl)-phenyl]-[4-(4-trifluoromethyl-phenyl)-piperazin-1-yl]-methanone
The title compound was prepared according to the procedure described for example 199 from (2-Iodo-5-methanesulfonyl-phenyl)-[4-(4-trifluoromethyl-phenyl)-piperazin-1-yl]-methanone (compound CK) and 4-Methyl-1H-imidazole (32% yield, white solid, MS (m/e): 493.4 (M+H, 100%)

reactant | (2-Iodo-5-methanesulfonyl-phenyl)-[4-(4-trifluoromethyl-phenyl)-piperazin-1-yl]-methanone | IC1=C(C=C(C=C1)S(=O)(=O)C)C(=O)N1CCN(CC1)C1=CC=C(C=C1)C(F)(F)F | C19H18F3IN2O3S
reactant | 4-Methyl-1H-imidazole | CC=1N=CNC1 | C4H6N2
product | [5-Methanesulfonyl-2-(4-methyl-imidazol-1-yl)-phenyl]-[4-(4-trifluoromethyl-phenyl)-piperazin-1-yl]-methanone | 32% yield | CS(=O)(=O)C=1C=CC(=C(C1)C(=O)N1CCN(CC1)C1=CC=C(C=C1)C(F)(F)F)N1C=NC(=C1)C | C23H23F3N4O3S
